US05318992
Dissolve N5 -benzyloxycarbonyl-ornithine, t-butyl ester (3.22 g, 10 mmol) in 50/50 dioxane/water (25 mL) and buffer to pH 10 with 1N sodium hydroxide. Add, by dropwise addition, an ether solution of t-butyl azidoformate (1.58 g, 11 mmol) at 10° C. Allow to warm to room temperature and buffer occasionally to retain pH 10. Acidify with a sodium citrate/citric acid buffer to pH 5, extract with ether (3X) dry (MgSO4) and blow to a residue with a stream of nitrogen to give N-t-butyloxycarbonyl-N5 -benzyloxycarbonyl-ornithine, t-butyl ester.

reactant | N5 -benzyloxycarbonyl-ornithine, t-butyl ester | 10 mmol, 3.22 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)OC(C)(C)C | C17H26N2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | t-butyl azidoformate | 11 mmol, 1.58 g | N(=[N+]=[N-])C(=O)OC(C)(C)C | C5H9N3O2
reactant | sodium citrate citric acid | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+].C(CC(O)(C(=O)O)CC(=O)O)(=O)O
solvent | dioxane water | 25 mL | O1CCOCC1.O
solvent | ether | CCOCC | C4H10O
product | N-t-butyloxycarbonyl-N5 -benzyloxycarbonyl-ornithine, t-butyl ester | C(C)(C)(C)OC(=O)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H34N2O6
